US08217032B2
[6-Benzyloxy-2-(2-fluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Dissolve trifluoromethanesulfonic acid 6-benzyloxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (1.00 g, 1.63 mmoles) in 20 ml of acetonitrile and add 2-fluorobenzene boronic acid (0.46 g, 3.26 mmol), trans[dichlorobis(triphenylphosphine)]palladium II (0.23 gm., 0.33 mmoles) and sonicate briefly. Next add cesium fluoride (2.23 g, 14.67 mmol) and heat to 75° C. for one hour. Add Celite and filter. Concentrate the solvent under vacuum, dissolve in methanol and purify on an SCX cartridge, eluting with 2N ammonia/methanol. Further purify on a silica gel column eluting with a 0-10% methanol/methylene chloride gradient to isolate 550 mg of the title compound (60%).

reactant | trifluoromethanesulfonic acid 6-benzyloxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 1.63 mmoles, 1.00 g | C(C1=CC=CC=C1)OC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C32H30F3NO6S
reactant | 2-fluorobenzene boronic acid | 3.26 mmol, 0.46 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | cesium fluoride | 14.67 mmol, 2.23 g | [F-].[Cs+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | [6-Benzyloxy-2-(2-fluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 550 mg, 60% | C(C1=CC=CC=C1)OC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C=CC=C1)F | C37H34FNO3
